US09447090B2
To a solution of 1 g of tert-butyl[(1R,2R)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]carbamate in 10 ml of THF was added 16.9 ml of a 0.5 M potassium hexamethyldisilazane/toluene solution at −78° C., followed by stirring for 30 minutes. 0.92 ml of chlorodimethyl ether was added thereto at −78° C., followed by warming to room temperature for 3 hours. 4 ml of a 0.5 M potassium hexamethyldisilazane/toluene solution and 0.31 ml of chlorodimethyl ether were added thereto at −78° C., followed by stirring at room temperature for 2 hours. To the reaction mixture were added a saturated aqueous ammonium chloride solution and ethyl acetate to carry out a layer separation operation. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 311 mg of tert-butyl [(1R,2R)-2-(methoxymethoxy)-2,3-dihydro-1H-inden-1-yl](methoxymethyl)carbamate.

reactant | tert-butyl[(1R,2R)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]carbamate | 1 g | C(C)(C)(C)OC(N[C@H]1[C@@H](CC2=CC=CC=C12)O)=O | C14H19NO3
reactant | potassium hexamethyldisilazane toluene | 0.5 M | C[Si](N[Si](C)(C)C)(C)C.[K].C1(=CC=CC=C1)C
reactant | chlorodimethyl ether | 0.92 ml | COCCl | C2H5ClO
reactant | potassium hexamethyldisilazane toluene | 0.5 M | C[Si](N[Si](C)(C)C)(C)C.[K].C1(=CC=CC=C1)C
reactant | chlorodimethyl ether | 0.31 ml | COCCl | C2H5ClO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl [(1R,2R)-2-(methoxymethoxy)-2,3-dihydro-1H-inden-1-yl](methoxymethyl)carbamate | 311 mg | COCO[C@H]1[C@@H](C2=CC=CC=C2C1)N(C(OC(C)(C)C)=O)COC | C18H27NO5
